US06479486B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonyl-4′-tributylstannylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
Tetrakis(triphenylphosphine)palladium(0) (300 mg, 0.26 mmol) was added to a degassed solution of (1R*,2R*,5S*,6R*)-8-benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol (Description 13; 1.8 g, 3.7 mmol) in tetrahydrofuran (50 ml). The mixture was cooled to +5° C. before tri-n-butyltin hydride (1.3 g, 4.4 mmol) was added. The mixture was allowed to warm to room temperature and stirred for a further 18 hours before triphenylphosphine (1 g, 3.7 mmol) and diethyl azodicarboxylate (0.65 g, 3.7 mmol) were added. After 3 hours the mixture was concentrated in vacuo. The residue was chromatographed on silica gel eluting with 5 and 10% ethyl acetate/iso-hexanes to give the title compound (154 mg, 5.5%).

reactant | (1R*,2R*,5S*,6R*)-8-benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-ol | 3.7 mmol, 1.8 g | C(C1=CC=CC=C1)N1[C@@]2([C@](CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)(O)C#CCO)C2=CC=CC=C2 | C29H29NO4S
reactant | tri-n-butyltin hydride | 4.4 mmol, 1.3 g | C(CCC)[SnH](CCCC)CCCC
reactant | triphenylphosphine | 3.7 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.7 mmol, 0.65 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonyl-4′-tributylstannylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 154 mg, 5.5% | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OCC(=C1)[Sn](CCCC)(CCCC)CCCC)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H28NO3S.3C4H9.Sn/c31-34(32,25-15-8-3-9-16-25)27-21-29(24-13-6-2-7-14-24)28(18-10-20-33-28)19-17-26(27)30(29)22-23-11-4-1-5-12-23;3*1-3-4-2;/h1-9,11-16,18,26-27H,17,19-22H2;3*1,3-4H2,2H3;/t26-,27+,28-,29+;;;;/m0..../s1
